US04409214
[7-{2-(2-Formamidothiazol-4-yl)-2-methoxyiminoacetamido}-4-benzhydryloxycarbonyl-3-cephem-3-yl]methyltriphenylphosphonium chloride (syn isomer)(5.33 g) was dissolved in a mixture of acetone (60 ml) and water (10 ml), and the solution was adjusted to pH 11 with 2 N aqueous solution of sodium hydroxide, followed by extraction three times with ethyl acetate (100 ml). The extract was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated to dryness to give a residue, which was pulverized with diethyl ether to obtain benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-triphenylphosphoranylidenemethyl-3-cephem-4-carboxylate (syn isomer)(3.7 g).

reactant | [7-{2-(2-Formamidothiazol-4-yl)-2-methoxyiminoacetamido}-4-benzhydryloxycarbonyl-3-cephem-3-yl]methyltriphenylphosphonium chloride | 5.33 g | [Cl-].C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-triphenylphosphoranylidenemethyl-3-cephem-4-carboxylate | 3.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C46H38N5O6PS2
